US07138395B2
Preparation of (4S,7S,11aS)-7-benzoylamino-6-oxo-decahydro-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydro-furan-3-yl)-amide (47):
(4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydrofuran-3-yl)-amide, 46, is dissolved in EtOAc and treated with a catalytic amount of Pd/C. The resulting suspension is stirred at room temperature under a H2 atmosphere for 2 hours. The solution is filtered to remove the catalyst and concentrated in vacuo to afford the desired product

reactant | (4S,7S,11aR)-7-benzoylamino-6-oxo-1,3,4,6,7,8,11,11a-octahydro-2H-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydrofuran-3-yl)-amide | OC1OC(CC1NC(=O)[C@@H]1CCC[C@H]2N1C([C@H](CC=CC2)NC(C2=CC=CC=C2)=O)=O)=O | C23H27N3O6
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | (4S,7S,11aS)-7-benzoylamino-6-oxo-decahydro-pyrido[1,2-a]azocine-4-carboxylic acid (2-hydroxy-5-oxo-tetrahydro-furan-3-yl)-amide | OC1OC(CC1NC(=O)[C@@H]1CCC[C@H]2N1C([C@H](CCCC2)NC(C2=CC=CC=C2)=O)=O)=O | C23H29N3O6
